US05626791
5-Octyloxy-2-[4-(2-octylbenzo[1,3]dioxol-5-ylmethoxy)-phenyl]pyrimidine
By Mitsunobu etherification of 4-(5-octyloxypyrimidin-2-yl)phenol using (2-octylbenzo[1,3]dioxol-5-yl)methanol.

reactant | 4-(5-octyloxypyrimidin-2-yl)phenol | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O2
reactant | (2-octylbenzo[1,3]dioxol-5-yl)methanol | C(CCCCCCC)C1OC2=C(O1)C=CC(=C2)CO | C16H24O3
product | 5-Octyloxy-2-[4-(2-octylbenzo[1,3]dioxol-5-ylmethoxy)-phenyl]pyrimidine | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCC1=CC2=C(OC(O2)CCCCCCCC)C=C1 | C34H46N2O4
